US07618993B2
1-[6-(2,2-difluoroethoxy)pyridin-3-yl]ethanamine:
The title compound was synthesised according to the 2-step procedure described for the synthesis of 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine starting from 6-chloronicotinonitrile and 2,2,3,3-tetrafluoropropan-1-ol.

reactant | 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine | FC(COC1=CC=C(C=N1)C(C)N)(F)F | C9H11F3N2O
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 2,2,3,3-tetrafluoropropan-1-ol | FC(CO)(C(F)F)F | C3H4F4O
product | 1-[6-(2,2-difluoroethoxy)pyridin-3-yl]ethanamine | FC(COC1=CC=C(C=N1)C(C)N)F | C9H12F2N2O
